US07122543B2
5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-methoxyphenyl)benzoic acid
Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(3-methoxyphenyl)benzoate (1.23 g, 2.6394 mmol) was dissolved in a mixed solution of a 1N aqueous solution of sodium hydroxide (20 ml) and 1,4-dioxane (40 ml) followed by stirring at room temperature for 16 hours. The reaction solution was diluted with water (200 ml), washed with ether, acidified with concentrated hydrochloric acid and extracted with ether. The extract was washed with water and dried and the solvent was evaporated therefrom to give the title compound (1.03 g, 2.2787 mmol, 85%).

reactant | Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(3-methoxyphenyl)benzoate | 2.6394 mmol, 1.23 g | COC=1C(=C(CC=2C=CC(=C(C(=O)OC)C2)C2=CC(=CC=C2)OC)C(=C(C1OC)OC)OC)C | C27H30O7
solvent | sodium hydroxide | 20 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | water | 200 ml | O | H2O
product | 5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-methoxyphenyl)benzoic acid | 2.2787 mmol, 1.03 g, 85% | COC=1C(=C(CC=2C=CC(=C(C(=O)O)C2)C2=CC(=CC=C2)OC)C(=C(C1OC)OC)OC)C | C26H28O7
